US08440689B2
A. (R)-2-(2-(2,4-Dimethoxybenzyl)-7-fluoro-4-(furan-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide
A solution of (R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide (150 mg, 0.323 mmol), tributyl(furan-2-yl)stannane (138 mg, 0.387 mmol), and tetrakis(triphenylphosphine)palladium(0) (373 mg, 0.323 mmol) in toluene (1 mL) was heated to 102° C. overnight. After removal of the solvent, the residue was diluted in MeOH/DCM (10 mL) and was purified via preparative HPLC eluting with water (0.05% TFA) and ACN (45-60% gradient, 0.035% TFA). The collected fractions were stripped to dryness via rotary evaporation to give the title compound (93.1 mg, 58%). [M+H] calc'd for C26H29FN4O5, 498. found 498.

reactant | (R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 0.323 mmol, 150 mg | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)N)CC(C)C | C22H26ClFN4O4
reactant | tributyl(furan-2-yl)stannane | 0.387 mmol, 138 mg | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.323 mmol, 373 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-2-(2-(2,4-Dimethoxybenzyl)-7-fluoro-4-(furan-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 93.1 mg, 58% | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@@H](C(=O)N)CC(C)C)C=2OC=CC2)=O)C=CC(=C1)OC | C26H29FN4O5
